US05608069
To a solution of 4-methyl-2-phenyl-2-pentenal (5.0 g, 29 mmol) and hydroxylammonium chloride (2.5 g, 36 mmol) in a mixture of absolute ethanol (15 ml) and water (5 ml) was carefully added a solution of sodium carbonate (7.3 g, 69 mmol) in water (20 ml). After stirring for 5 h a precipitate was filtered off and dried in the air. The crude product was purified by column chromatography on silica gel (50 g, cyclohexane/ethyl acetate 3/1) to give 3.2 g of 4-methyl-2-phenyl-2-pentenal oxime as a solid. M.p. 107°-110° C.

reactant | 4-methyl-2-phenyl-2-pentenal | 29 mmol, 5.0 g | CC(C=C(C=O)C1=CC=CC=C1)C | C12H14O
reactant | hydroxylammonium chloride | 36 mmol, 2.5 g | [Cl-].O[NH3+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | sodium carbonate | 69 mmol, 7.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 4-methyl-2-phenyl-2-pentenal oxime | 3.2 g | CC(C=C(C=NO)C1=CC=CC=C1)C | C12H15NO
